US07429665B2
4-(1-(4-methoxyphenyl)-2-methyl-1H-imidazol-5-yl)pyridine
A solution of diisopropyl amine (0.51 mL, 3.6 mmol) in tetrahydrofuran (12 mL) at −20° C., was treated with n-butyl lithium (2.5 M in hexanes, 1.45 mL, 3.6 mmol) and the solution was stirred for 10 minutes. A solution of Preparation 80 (4-(1-(4-methoxyphenyl)-1H-imidazol-5-yl)pyridine, 730 mg, 2.9 mmol) in tetrahydrofuran was added and the solution became dark orange. The solution was stirred for 30 minutes as the temperature was allowed to rise to 0° C. After cooling to −20° C., methyl iodide (0.54 mL, 8.7 mmol) in tetrahydrofuran (12 mL) was added and the solution was stirred for 30 min at −20° C. and for 2 hr at 23° C. The solvent was removed in vacuo, the residue was diluted with brine and was extracted with ethyl acetate. The organic layer was then dried (MgSO4), was filtered, and was concentrated in vacuo. The residue was purified by silica gel chromatography using ethyl acetate-hexanes-methanol (63:32:5 to 72:18:10) to afford 555 mg (72% yield) of the title compound; diagnostic 13C NMR signals (100 MHz, CDCl3) δ 160.144, 150.034, 149.197, 137.749, 131.265, 129.463, 128.985, 128.828, 120.849, 115.233, 55.78, 14.203; MS (AP/Cl) 266.4 (M+H)+.

reactant | diisopropyl amine | 3.6 mmol, 0.51 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 3.6 mmol, 2.5 M, 1.45 mL | C(CCC)[Li]
reactant | 4-(1-(4-methoxyphenyl)-1H-imidazol-5-yl)pyridine | COC1=CC=C(C=C1)N1C=NC=C1C1=CC=NC=C1 | C15H13N3O
reactant | methyl iodide | 8.7 mmol, 0.54 mL | CI | CH3I
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 4-(1-(4-methoxyphenyl)-2-methyl-1H-imidazol-5-yl)pyridine | 555 mg, 72% yield | COC1=CC=C(C=C1)N1C(=NC=C1C1=CC=NC=C1)C | C16H15N3O
